US06861440B2
To a solution of 2-[3-(2-phenyl-1H-imidazol-4-yl)-propyl]-isoindole-1,3-dione (4.16 g) in ethanol (50 ml) was added hydrazine hydrate (3.18 g). The reaction mixture was stirred under reflux for 4 h, cooled down to 0-5° C., and the precipitate was filtered off. The filtrate was concentrated, and the oily residue was quenched with cooled 1 N NaOH solution (20 ml) and extracted with ethyl acetate. The organic phase was washed with brine, dried over magnesium sulphate and concentrated to dryness to obtain 3-(2-phenyl-1H-imidazol-4-yl)-propylamine (1.95 g) as a yellow foam, which was sufficiently pure to be used directly in the next step.

reactant | 2-[3-(2-phenyl-1H-imidazol-4-yl)-propyl]-isoindole-1,3-dione | 4.16 g | C1(=CC=CC=C1)C=1NC=C(N1)CCCN1C(C2=CC=CC=C2C1=O)=O | C20H17N3O2
reactant | hydrazine hydrate | 3.18 g | O.NN
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3-(2-phenyl-1H-imidazol-4-yl)-propylamine | 1.95 g | C1(=CC=CC=C1)C=1NC=C(N1)CCCN | C12H15N3
